US04616090
2-(4-Ethoxy-2-hydroxyphenyl)imidazo(4,5-c)pyridine.
2-(4-Ethoxy-2-methoxyphenyl)imidazo(4,5-c)pyridine, fumarate, m.p. 213°.

reactant | 2-(4-Ethoxy-2-methoxyphenyl)imidazo(4,5-c)pyridine | C(C)OC1=CC(=C(C=C1)C=1NC2=C(C=NC=C2)N1)OC | C15H15N3O2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 2-(4-Ethoxy-2-hydroxyphenyl)imidazo(4,5-c)pyridine | C(C)OC1=CC(=C(C=C1)C=1NC2=C(C=NC=C2)N1)O | C14H13N3O2
